US06235731B1
4) Synthesis of N-[3-(4-benzyl-2,3,5,6-tetrahydro-7H-1,4-diazepin-1-yl)propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide Trihydrochloride
To a solution of 320.0 mg (0.71 mM) of N-[3-(4-benzyl-2,3,5,6-tetrahydro-7H-1,4-diazepin-1-yl)propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide in ethanol (10 ml) was added 2 ml (8.0 mM) of 4N-HCl/ethyl acetate, and the mixture was stirred under heating for 2 hours. To the ethanolic solution containing crystals was added ether and the crystal crop was harvested by filtration and rinsed with ethanol and diethyl ether to provide the title compound as light-orange-colored crystals (390.9 mg, 94%).

reactant | N-[3-(4-benzyl-2,3,5,6-tetrahydro-7H-1,4-diazepin-1-yl)propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 0.71 mM, 320.0 mg | C(C1=CC=CC=C1)N1CCN(CCC1)CCCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | C25H29N5OS
reactant | HCl ethyl acetate | Cl.C(C)(=O)OCC
reactant | ether | CCOCC | C4H10O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | N-[3-(4-benzyl-2,3,5,6-tetrahydro-7H-1,4-diazepin-1-yl)propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide Trihydrochloride | 390.9 mg, 94% | Cl.Cl.Cl.C(C1=CC=CC=C1)N1CCN(CCC1)CCCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | InChI=1S/C25H29N5OS.3ClH/c31-25(22-17-21-18-27-23-9-4-10-24(32-22)30(21)23)26-11-5-12-28-13-6-14-29(16-15-28)19-20-7-2-1-3-8-20;;;/h1-4,7-10,17-18H,5-6,11-16,19H2,(H,26,31);3*1H
